US04603201
1.48 g (0.005 mole) of 2-chloro-4-(3,5-dichloro-4-methylphenyl)-4-oxobutyric acid, prepared as described in step (a) above, were dissolved in a solution of 0.68 g (0.01 mole) of hydrazine hydrochloride in 15 ml of ethanol and 2 ml of water; the solution was then heated under reflux for 3 hours, after which it was cooled. The solvent was then distilled off and 20 ml of water were added to the residue. The mixture was stirred and the resulting crystals were collected by filtration, washed successively with water and with a small amount of diethyl ether and then dried, giving 0.85 g (yield 66.7%) of the desired 6-(3,5-dichloro-4-methylphenyl)-3(2H)pyridazinone, having the same properties as the product obtained in the preceding Examples.

reactant | 2-chloro-4-(3,5-dichloro-4-methylphenyl)-4-oxobutyric acid | 0.005 mole, 1.48 g | ClC(C(=O)O)CC(=O)C1=CC(=C(C(=C1)Cl)C)Cl | C11H9Cl3O3
reactant | hydrazine hydrochloride | 0.01 mole, 0.68 g | Cl.NN
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
product | 6-(3,5-dichloro-4-methylphenyl)-3(2H)pyridazinone | 0.85 g, yield 66.7% | ClC=1C=C(C=C(C1C)Cl)C=1C=CC(NN1)=O | C11H8Cl2N2O
